US09062015B2
FS1025 4-{4-[6-(3,3-Dimethyl indan-5-yl)pyridin-2-yl]piperazin-1-yl}butan-1-ol
The preparation is carried out analogously to FS402 starting from 104 mg (0.23 mmol) of acetic acid 4-{4-[6-(3,3-dimethylindan-5-yl)pyridin-2-yl]piperazin-1-yl}butyl ester. The product is the hydrochloride.

reactant | acetic acid 4-{4-[6-(3,3-dimethylindan-5-yl)pyridin-2-yl]piperazin-1-yl}butyl ester | 0.23 mmol, 104 mg | CC1(CCC2=CC=C(C=C12)C1=CC=CC(=N1)N1CCN(CC1)CCCCOC(C)=O)C | C26H35N3O2
reactant | hydrochloride | Cl | ClH
product | 4-{4-[6-(3,3-Dimethyl indan-5-yl)pyridin-2-yl]piperazin-1-yl}butan-1-ol | CC1(CCC2=CC=C(C=C12)C1=CC=CC(=N1)N1CCN(CC1)CCCCO)C | C24H33N3O
